US07323455B2
1-(2-Amino-5-bromo-phenyl)-ethanone
To a solution of 5-bromo anthranilic acid (50 g, 0.231 mol) in anhydrous THF (500 mL) at 0° C. under nitrogen was added in a dropwise manner methyllithium (1.4 M in diethyl ether, 661 mL, 0.926 mol). After addition, the reaction mixture was slowly allowed to warm to room temperature, stirred overnight, and treated with aqueous saturated ammonium chloride solution (1000 mL). Ethyl acetate (400 mL) was added and organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×200 mL). The combined organic layers were dried (Mg2SO4) and concentrated. The residue was purified by a flash chromatography on silica gel (hexane:ethyl acetate/9:1) to afford the title compound as a brown solid (29.3 g, 59%). MS (ES) m/z 214/216 ([M+H]+, 100%).

reactant | 5-bromo anthranilic acid | 0.231 mol, 50 g | BrC1=CC=C(C(C(=O)O)=C1)N | C7H6BrNO2
reactant | methyllithium | 0.926 mol, 1.4 M, 661 mL | C[Li]
reactant | ammonium chloride | 1000 mL | [Cl-].[NH4+]
reactant | Ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(2-Amino-5-bromo-phenyl)-ethanone | 29.3 g, 59% | NC1=C(C=C(C=C1)Br)C(C)=O | C8H8BrNO
